US09428512B2
Intermediate 3: 2-Butyl-4-chloro-5H-pyrrolo[3,2-d]pyrimidine
Phosphorus oxychloride (20 mL, 21.46 mmol) was added to 2-butyl-3H-pyrrolo[3,2-d]pyrimidin-4(5H)-one (1.69 g). The resultant mixture was heated at 100° C. After 4 hours the reaction mixture was cooled to room temperature then poured onto ice. The aqueous phase was treated with aqueous sodium hydroxide solution (5M) until the pH was 7. The resultant mixture was extracted with ethyl acetate (2×150 mL). The combined organic phase were washed with brine, dried (Na2SO4), filtered and evaporated to give the title compound (1.69 g)

reactant | Phosphorus oxychloride | 21.46 mmol, 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-butyl-3H-pyrrolo[3,2-d]pyrimidin-4(5H)-one | 1.69 g | C(CCC)C=1NC(C2=C(N1)C=CN2)=O | C10H13N3O
reactant | sodium hydroxide | 5M | [OH-].[Na+]
product | 2-Butyl-4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 1.69 g | C(CCC)C=1N=C(C2=C(N1)C=CN2)Cl | C10H12ClN3
